US09079866B2
5-(4-Bromo-2,3-difluorophenyl)pyrazin-2-amine
A mixture of (4-bromo-2,3-difluorophenyl)boronic acid (400 mg, 1.69 mmol) and 5-bromopyrazin-2-amine (588 mg, 3.38 mmol was suspended in EtOH (5.6 ml) and toluene (5.7 mL) The resulting mixture was treated with aqueous Na2CO3 (2.0 N, 4.2 mL, 8.45 mmol). The resulting mixture was then sparged with nitrogen through the mixture for 10 min, and then Pd(PPh3)4 (98 mg, 0.085 mmol) was added. The reaction vessel was sealed and heated at 80° Celsius for 17 hours. The reaction mixture was cooled to rt and then partitioned between saturated aqueous NH4Cl and EtOAc. The organic layer was dried over MgSO4 and concentrated to dryness. The residue was suspended in DCM and the solid isolated by filtration to afford the title compound (160 mg, 33%), which was used without further purification. MS (ESI): mass calcd. for C10H6BrF2N3, 284.97; m/z found, 286.0 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.36 (s, 1H), 8.01 (d, J=1.2, 1H), 7.68-7.56 (m, 2H), 6.87 (s, 2H).

reactant | (4-bromo-2,3-difluorophenyl)boronic acid | 1.69 mmol, 400 mg | BrC1=C(C(=C(C=C1)B(O)O)F)F | C6H4BBrF2O2
reactant | 5-bromopyrazin-2-amine | BrC=1N=CC(=NC1)N | C4H4BrN3
reactant | toluene | 5.7 mL | C1(=CC=CC=C1)C | C7H8
reactant | Na2CO3 | 8.45 mmol, 2.0 N, 4.2 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOH | 5.6 ml | CCO | C2H6O
catalyst | Pd(PPh3)4 | 0.085 mmol, 98 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(4-Bromo-2,3-difluorophenyl)pyrazin-2-amine | 160 mg, 33% | BrC1=C(C(=C(C=C1)C=1N=CC(=NC1)N)F)F | C10H6BrF2N3
